US04705864
0.35 mol diphosgene is added dropwise over 1 hour to a mixture of 0.28 mol of the methyl ester of glutamine and 0.4 g activated charcoal in 400 mL dioxane under N2. The reaction mixture is then heated and stirred at reflux for 21/2 hours. The reaction mixture is then cooled, filtered, and concentrated to dryness by rotary evaporator, keeping exposure to moisture to a minimum. The crude product is re-dissolved in 100 mL THF, and the pH of the solution is adjusted to 5.5-6.0 by addition of pyridine. The product mixture is again filtered, and the filtrate is fractionally distilled to give glutamine methyl ester isocyanate.

reactant | diphosgene | 0.35 mol | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | charcoal | C | CH4
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | glutamine methyl ester isocyanate | [N-]=C=O.COC([C@@H](N)CCC(N)=O)=O | InChI=1S/C6H12N2O3.CNO/c1-11-6(10)4(7)2-3-5(8)9;2-1-3/h4H,2-3,7H2,1H3,(H2,8,9);/q;-1/t4-;/m0./s1
